US04226801
A mixture of 1,12-dodecanediol (20.4 g, 0.10 mol), 4-nitrophthalonitrile (35 g, 0.20 mol), anhydrous potassium carbonate (69 g, 0.50 mol) and 180 ml of dimethyl sulfoxide was heated at 70°-75° C. for 6 hours under a nitrogen atmosphere. The potassium carbonate was added in three portions. After cooling, the content was slowly poured into 500 ml of cold dilute (2 N) hydrochloric acid. The aqueous solution was extracted with four, 100 ml portions of chloroform. The combined extract was washed several times with water, charcoaled, dried over anhydrous sodium sulfate and concentrated to afford 42 g of crude product. Recrystallization from ethanol-water yielded 24.4 g (54%), m.p. 104°-107° C. of 1,12-bis(3,4-dicyanophenoxy) dodecane.

reactant | 1,12-dodecanediol | 0.10 mol, 20.4 g | C(CCCCCCCCCCCO)O | C12H26O2
reactant | 4-nitrophthalonitrile | 0.20 mol, 35 g | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
reactant | potassium carbonate | 0.50 mol, 69 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dimethyl sulfoxide | 180 ml | CS(=O)C | C2H6OS
product | 1,12-bis(3,4-dicyanophenoxy) dodecane | C(#N)C=1C=C(OCCCCCCCCCCCCOC2=CC(=C(C=C2)C#N)C#N)C=CC1C#N | C28H30N4O2
